Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])([H:4])[O:5][C:6]=[C:7]([H:8])[H:9]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-2.52110950404
[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][H:7]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.405785820219999
[H:11].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]\[C:12]([H:13])([H:14])[H:15]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15],-4.6759520006
[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9])[C:10]([H:11])[H:12]>>[C:10]([H:11])[H:12].[O:1]=[C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9],5.51541992085
[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.97452828858
[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])[H:4],3.76809948847
[C:1]#[C:2][C:3](=[O:4])[C:5]([H:6])=[C:7]([H:8])[H:9]>>[C:1]#[C:2].[C:3](=[O:4])=[C:5]([H:6])[C:7]([H:8])[H:9],4.65928864115
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[O:1]=[C:2],0.8322036438
[H:1][C:2][O:3][C:4]([H:5])[H:6].[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.72513943775
[C:1]#[C:2][C:4]([C:5]#[C:6])[O:7][H:8].[H:3]>>[C:1]=[C:2]([H:3])[C:4]([C:5]#[C:6])[O:7][H:8],-3.94348226297
[C:1]([H:6])([H:7])=[C:8]=[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[C:2]([H:3])([H:4])=[C:5]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])/[C:8]=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],1.51792459534
[C:5]([O:6][C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13].[H:1][O:2][C:3][H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])[H:13],-4.42702348048
[H:1][C:2]([H:3])([H:4])[O:5][C:6]#[C:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]1[C:7][C:8]([H:9])([H:10])[C:11]1([H:12])[H:13],-0.249968882311
[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]=[C:10]([H:11])[H:12].[H:9],4.85770202536
[O:1]=[C:2]([H:3])[O:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2][H:3].[O:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10],2.57139445939
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15]>>[C:11]([H:12])([H:13])[O:14][H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10],1.19785882972
[C:1]#[C:2][O:3]/[C:4]=[C:5](\[H:6])[O:7][H:8]>>[C:1]#[C:2][O:3][C:4]#[C:5][O:7][H:8].[H:6],2.67501742662
[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11],-3.5102336784699992
[O:1]=[C:2]1[O:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]1[H:11]>>[O:1]=[C:2]=[C:10]([C@@:4]([O:3])([H:5])[C:6]([H:7])([H:8])[H:9])[H:11],1.0119570567899998
[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3][C@@:4]1([H:5])[O:6][C:7]1[C:8]([H:9])([H:10])[H:11],-0.3906937480610001
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[H:10].[H:1][O:2],5.46446704018
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9]>>[C:4]([H:5])([H:6])[C:7]#[C:8][H:9].[H:1][C:2]=[O:3],0.0713151018294
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:10][O:11].[H:9]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[O:10][O:11],-4.7495764093
[H:1][O:2][O:3][C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1].[O:2][O:3][C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],3.64390071246
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])=[C:12]([H:13])[H:14]>>[C:12]([H:13])[H:14].[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10][H:11],7.456360952180001
[O:1]=[C:2]1[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]1([H:10])[H:11]>>[O:1]=[C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11],1.41953599712
[O:1]=[C:2]([C:3][H:4])[C@@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([C:3][H:4])[C@@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-0.2364772873599999
[O:1][C@@:2]([C:3]#[C:4][H:5])([O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]([C:3]#[C:4][H:5])[O:6][H:7],-0.167520213771
[O:1]=[C:2]([O:3][H:4])[C@@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:5]([H:6])(=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2][O:3][H:4],1.3004374614299998
